US05068334
7,7-Dimethyl-3,4,7,8-tetrahydro-2,5(1H,6H)-quinolinedione
Prepared analogously to Example G from 1-amino- 5,5-dimethyl-cyclohexen-3-one and acrylic acid at 140° C. for 3 hours.

reactant | 1-amino- 5,5-dimethyl-cyclohexen-3-one | NC1=CC(CC(C1)(C)C)=O | C8H13NO
reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
product | 7,7-Dimethyl-3,4,7,8-tetrahydro-2,5(1H,6H)-quinolinedione | CC1(CC(C=2CCC(NC2C1)=O)=O)C | C11H15NO2
